US08202865B2
Step 1: 3-{[(2-Hydroxy-ethyl)-methyl-amino]methyl}-benzonitrile
To a solution of 2-(methylamino)ethanol (4 mL, 51 mmol) and TEA (4 mL, 28.05 mmol) in DCM (75 mL) under N2, was added 3-(bromomethyl)benzonitrile (5 g, 25.50 mmol) at 0° C. and the mixture was stirred at RT for 30 min. After this time, reaction mixture was concentrated under reduced pressure and the remaining residue was dissolved in DCM and washed with water to give the title compound as a colorless liquid (4.9 g, 100%). 1H NMR (DMSO-d6, 400 MHz) δ 7.76 (s, 1H), 7.69-7.71 (m, 2H), 7.63-7.65 (m, 1H), 7.49-7.53 (m, 1H), 4.41-4.43 (m, 1H), 3.47-3.51 (m, 2H), 3.32 (m, 2H), 2.40-2.43 (m, 2H), 2.13 (s, 3H).

reactant | 2-(methylamino)ethanol | 51 mmol, 4 mL | CNCCO | C3H9NO
reactant | 3-(bromomethyl)benzonitrile | 25.50 mmol, 5 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | 3-{[(2-Hydroxy-ethyl)-methyl-amino]methyl}-benzonitrile | 4.9 g, 100% | OCCN(C)CC=1C=C(C#N)C=CC1 | C11H14N2O
